US04326087
A mixture of 1 mol of 3-bromo-4-fluoro-benzyl benzyl ether, 1.1 mol of sodium phenolate, 0.12 mol of copper(I) oxide, 80 g of 4 MgCO3.Mg(OH)2.4 H2O and 1,500 ml of isoquinoline was heated to 160° C. for 12 hours. The reaction mixture was then cooled, diluted with cyclohexane and filtered. The filtrate was washed with dilute hydrochloric acid and water, dried over sodium sulphate and filtered and the filtrate was distilled. 4-Fluoro-3-phenoxy-benzyl benzyl ether was obtained in the form of a yellow oil of boiling point 135° C./1 mbar in a yield of 75% of theory.

reactant | 3-bromo-4-fluoro-benzyl benzyl ether | 1 mol | C(C1=CC=CC=C1)OCC1=CC(=C(C=C1)F)Br | C14H12BrFO
reactant | sodium phenolate | 1.1 mol | C1(=CC=CC=C1)[O-].[Na+]
reactant | H2O | O | H2O
reactant | isoquinoline | 1,500 ml | C1=NC=CC2=CC=CC=C12 | C9H7N
solvent | cyclohexane | C1CCCCC1 | C6H12
catalyst | copper(I) oxide | 0.12 mol | [Cu-]=O
product | 4-Fluoro-3-phenoxy-benzyl benzyl ether | yield of 75% | C(C1=CC=CC=C1)OCC1=CC(=C(C=C1)F)OC1=CC=CC=C1 | C20H17FO2
